US05286728
65 ml of trifluoroacetic acid are introduced into 100 ml of dichloromethane. A solution of 7.2 g of 1-{3-[N-(2-isopropyloxyethyl)-N-tert-butoxycarbonylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine is added thereto within a period of 5 minutes. After 2 hours at RT, the reaction solution is concentrated by evaporation and the residue is neutralised with sodium hydroxide solution and extracted with ether. Concentration by evaporation and treatment with ethereal hydrochloric acid yield 1-[3-(2-isopropyloxyethylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride having a melting point of 157°-159°.

reactant | trifluoroacetic acid | 65 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-{3-[N-(2-isopropyloxyethyl)-N-tert-butoxycarbonylamino]benzoyl}-4-[2-(4-chlorophenyl)ethyl]piperazine | 7.2 g | C(C)(C)OCCN(C(=O)OC(C)(C)C)C=1C=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC1 | C29H40ClN3O4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-[3-(2-isopropyloxyethylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]piperazine hydrochloride | Cl.C(C)(C)OCCNC=1C=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC1 | InChI=1S/C24H32ClN3O2.ClH/c1-19(2)30-17-11-26-23-5-3-4-21(18-23)24(29)28-15-13-27(14-16-28)12-10-20-6-8-22(25)9-7-20;/h3-9,18-19,26H,10-17H2,1-2H3;1H
